US04855086
5-(2',3'-dichlorophenyl)-4-pentyn-1-ol was prepared from 4-pentyn-1-ol and 2,3-dichloro-iodobenzene using the same method as in Example 15 and converted into 5-(2',3'-dichlorophenyl)-4-pentyn-1-al as in Example 9.

reactant | 4-pentyn-1-ol | C(CCC#C)O | C5H8O
reactant | 2,3-dichloro-iodobenzene | ClC1=C(C=CC=C1Cl)I | C6H3Cl2I
reactant | 5-(2',3'-dichlorophenyl)-4-pentyn-1-al | ClC1=C(C=CC=C1Cl)C#CCCC=O | C11H8Cl2O
product | 5-(2',3'-dichlorophenyl)-4-pentyn-1-ol | ClC1=C(C=CC=C1Cl)C#CCCCO | C11H10Cl2O
